US08012976B2
Methyl 3-(1-benzyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (3.7 g, 8.46 mmol) in hydrazine monohydrate (25 mL) and methanol (100 mL) was stirred at room temperature for 5 h. The resulting mixture was filtered to give 9-(1-benzyl-1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one as a white solid (950 mg, yield 27%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 4.61-4.64 (d, J=11.2 Hz, 1H), 4.99-5.12 (m, 1H), 6.83-6.89 (m, 4H), 7.14-7.28 (m, 1H), 7.36-7.38 (d, J=7.6 Hz, 1H), 7.54-7.58 (t, J=8.0 Hz, 7H), 12.20 (s, 1H). LC-MS (ESI) m/z: 420 (M+1)+.

reactant | Methyl 3-(1-benzyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 8.46 mmol, 3.7 g | C(C1=CC=CC=C1)N1C(=NC=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=CC=C1 | C27H23N3O3
reactant | hydrazine monohydrate | 25 mL | O.NN
solvent | methanol | 100 mL | CO | CH4O
product | 9-(1-benzyl-1H-imidazol-2-yl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 950 mg, yield 27% | C(C1=CC=CC=C1)N1C(=NC=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2 | C26H21N5O
